US05238939
A mixture of 8 g of 1-[(3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]-4-(phenylmethyl)piperazine, 9,1 g of 1,1-bis(4-fluorophenyl)-4-chlorobutane and 5,6 g of potassium carbonate in 75 ml of dimethylformamide was heated at 90° C. for 2 h. After addition of water the mixture was extracted with diethyl ether, the ether phase was washed, dried and evaporated and the dimaleate prepared as previously described to obtain 5,3 g (36,5%) of 1-[4,4-bis(4-fluorophenyl)butyl]-4-[(3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]piperazine (Z)-2-butene-dioate (1:2) salt. mp 205° C.

reactant | 1-[(3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]-4-(phenylmethyl)piperazine | 8 g | COC=1C(=CC2=C(CCOC2CN2CCN(CC2)CC2=CC=CC=C2)C1)OC | C23H30N2O3
reactant | 1,1-bis(4-fluorophenyl)-4-chlorobutane | 9,1 g | FC1=CC=C(C=C1)C(CCCCl)C1=CC=C(C=C1)F | C16H15ClF2
reactant | potassium carbonate | 5,6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 1-[4,4-bis(4-fluorophenyl)butyl]-4-[(3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]piperazine (Z)-2-butene-dioate | 5,3 g, 36,5% | C(\C=C/C(=O)O)(=O)O.FC1=CC=C(C=C1)C(CCCN1CCN(CC1)CC1OCCC2=C1C=C(C(=C2)OC)OC)C2=CC=C(C=C2)F | InChI=1S/C32H38F2N2O3.C4H4O4/c1-37-30-20-25-13-19-39-32(29(25)21-31(30)38-2)22-36-17-15-35(16-18-36)14-3-4-28(23-5-9-26(33)10-6-23)24-7-11-27(34)12-8-24;5-3(6)1-2-4(7)8/h5-12,20-21,28,32H,3-4,13-19,22H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
